* source FLYBACK_DIAGRAM TEST
V_Flyback_V1         Flyback_N15349 0 12V
R_Flyback_R6         Flyback_N02226 Flyback_N19124  10k TC=0,0 
C_Flyback_CT         0 Flyback_N14542  200p  TC=0,0 
C_Flyback_Cout         0 OUT  {56u*4}  TC=0,0 
C_Flyback_Cref         0 Flyback_N14535  1u  TC=0,0 
R_Flyback_RFB1         Flyback_N02226 OUT  18.7k TC=0,0 
C_Flyback_Cvcc         0 Flyback_N15349  1u  TC=0,0 
R_Flyback_FLY_Rg         Flyback_FLY_N12134 Flyback_FLY_N13092  50R TC=0,0 
Kn_Flyback_FLY_K1         L_Flyback_FLY_Lp L_Flyback_FLY_Ls     0.99
+  KRM8/i/AL160_3F3
L_Flyback_FLY_Lp         Flyback_FLY_N12010 Flyback_FLY_N16991  {N}  
R_Flyback_FLY_Rlp         Flyback_FLY_N12010 Flyback_N14138  {Rlp/3} TC=0,0 
L_Flyback_FLY_Ls         0 Flyback_FLY_N17058  {N}  
R_Flyback_FLY_Rls         Flyback_FLY_N12030 Flyback_FLY_N12024  {Rls/3} TC=0,0
+  
X_Flyback_FLY_M1         Flyback_FLY_N16995 Flyback_FLY_N12134 Flyback_N14259
+  IRFB31N20D
D_Flyback_FLY_D1         Flyback_FLY_N12030 OUT 30LJQ150 
X_Flyback_FLY_U1         Flyback_N19132 Flyback_N02226 Flyback_N14338
+  Flyback_N14542 0 Flyback_FLY_N13092 Flyback_N15349 Flyback_N14535 UCCx813-1
L_Flyback_FLY_Lp1         Flyback_FLY_N16991 Flyback_FLY_N16995  420n  
L_Flyback_FLY_Lp2         Flyback_FLY_N17058 Flyback_FLY_N12024  420n  
R_Flyback_RFB2         0 Flyback_N02226  2.55k TC=0,0 
R_Flyback_RT         Flyback_N14542 Flyback_N14535  33.2k TC=0,0 
C_Flyback_IF_Cin1         0 Flyback_N14138  10u  TC=0,0 
C_Flyback_IF_Cin2         0 Flyback_IF_N129151  40u  TC=0,0 
L_Flyback_IF_Lin         N1353995 Flyback_N14138  3u  
R_Flyback_IF_Rin         Flyback_IF_N129151 Flyback_N14138  800m TC=0,0 
R_Flyback_Rcs         0 Flyback_N14259  167m TC=0,0 
R_Flyback_Rcs1         Flyback_N14259 Flyback_N14338  4.64k TC=0,0 
C_Flyback_CT1         0 Flyback_N14338  100p  TC=0,0 
C_Flyback_C6         Flyback_N19132 Flyback_N19124  50n  TC=0,0 
V_Vmb         N1353995 0  
+PULSE 0V 26V 1ms 1ms 1ms 0.9s 1s
G_Gload         OUT 0 Value = {V(Out)/Rload*Pscale}
.PARAM  pscale=1 iout=2.5a n=19 rlp=160m vout=21v rls=160m rload={13.75r}
