* source FLYBACK_DIAGRAM TEST
V_FB_V1         FB_N15349 0 12V
R_FB_Rcomp         FB_N02226 FB_N19124  49.9k TC=0,0 
C_FB_CT         0 FB_N14542  200p  TC=0,0 
C_FB_Cref         0 FB_N14535  1u  TC=0,0 
R_FB_RFB1         FB_N02226 FB_N08381  18.7k TC=0,0 
C_FB_Cvcc         0 FB_N15349  1u  TC=0,0 
R_FB_PS_Rg         FB_PS_GATE FB_PS_N15331  13.7R TC=0,0 
Kn_FB_PS_K1         L_FB_PS_Lp L_FB_PS_Ls     0.99733 KRM8/i/AL160_3F3
L_FB_PS_Lp         FB_PS_N12010 FB_PS_N16991  {N}  
R_FB_PS_Rlp         FB_PS_N12010 FB_N14138  {Rlp/3} TC=0,0 
L_FB_PS_Ls         0 FB_PS_N17058  {N}  
R_FB_PS_Rls         FB_PS_ANODE FB_PS_N12024  {Rls/3} TC=0,0 
D_FB_PS_D1         FB_PS_ANODE FB_N08381 Dntsv30120ctg 
X_FB_PS_U1         FB_N19132 FB_N02226 FB_N14338 FB_N14542 0 FB_PS_N15331
+  FB_N15349 FB_N14535 UCCx813-1
L_FB_PS_Lmp         FB_PS_N16991 FB_PS_N16995  {Lm}  
L_FB_PS_Lms         FB_PS_N17058 FB_PS_N12024  {Lm}  
R_FB_PS_RsnubD         FB_N08381 FB_PS_N18140  27.4R TC=0,0 
C_FB_PS_CsnubD         FB_PS_ANODE FB_PS_N18140  400p  TC=0,0 
X_FB_PS_M1         FB_PS_N16995 FB_PS_GATE FB_N14259 IRF630
R_FB_PS_RsnubM         0 FB_PS_N22303  23.7R TC=0,0 
C_FB_PS_CsnubM         FB_PS_N16995 FB_PS_N22303  600p  TC=0,0 
R_FB_RFB21         0 FB_N02226  2.55k TC=0,0 
R_FB_RT         FB_N14542 FB_N14535  37.5k TC=0,0 
C_FB_IF_Cin1         0 FB_N14138  10u  TC=0,0 
C_FB_IF_Cin2         0 FB_IF_N129151  40u  TC=0,0 
L_FB_IF_Lin         N1353995 FB_N14138  3u  
R_FB_IF_Rin         FB_IF_N129151 FB_N14138  800m TC=0,0 
R_FB_Rcs         0 FB_N14259  167m TC=0,0 
R_FB_Rlp         FB_N14259 FB_N14338  464R TC=0,0 
C_FB_Clp         0 FB_N14338  100p  TC=0,0 
C_FB_Ccomp         FB_N19132 FB_N19124  24.2nF  TC=0,0 
L_FB_OF_Lesl4         OUT FB_OF_N24054  {Lesl}  
L_FB_OF_L1         FB_N08381 FB_OF_N24235  30nH  
C_FB_OF_Cout2         0 FB_OF_N23941  {Cout}  TC=0,0 
R_FB_OF_Resr4         FB_OF_N24074 FB_OF_N24054  {Resr} TC=0,0 
L_FB_OF_L2         FB_OF_N24235 FB_OF_N24253  30nH  
L_FB_OF_Lesl2         FB_OF_N24253 FB_OF_N23789  {Lesl}  
C_FB_OF_Cout3         0 FB_OF_N24074  {Cout}  TC=0,0 
L_FB_OF_Lesl1         FB_OF_N24235 FB_OF_N23692  {Lesl}  
L_FB_OF_L3         FB_OF_N24253 FB_OF_N24257  30nH  
R_FB_OF_Resr2         FB_OF_N23809 FB_OF_N23789  {Resr} TC=0,0 
L_FB_OF_Lesl3         FB_OF_N24257 FB_OF_N23921  {Lesl}  
R_FB_OF_Resr1         FB_OF_N23621 FB_OF_N23692  {Resr} TC=0,0 
C_FB_OF_Cout1         0 FB_OF_N23809  {Cout}  TC=0,0 
L_FB_OF_L4         FB_OF_N24257 OUT  30nH  
R_FB_OF_Resr3         FB_OF_N23941 FB_OF_N23921  {Resr} TC=0,0 
C_FB_OF_Cout         0 FB_OF_N23621  {Cout}  TC=0,0 
R_FB_RFB22         0 FB_N02226  280k TC=0,0 
V_Vmb         N1353995 0  
+PULSE 0V 26V 1ms 1ms 1ms 0.9s 1s
G_Gload         OUT 0 Value = {V(Out)/Rload*Pscale}
.PARAM  resr=10m iout=2.5a pscale=1 n=19 lm=76nh cout=56uf rlp=160m vout=21v
+  rls=160m lesl=38.78nh rload={8.4r}
